US09447092B2
6-Chloro-7-(4-(4-chlorobenzyl)piperazin-1-yl)-2-(1,3-dimethyl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridine
To a mixture of 5-chloro-4-(4-(4-chlorobenzyl)piperazin-1-yl)-3-nitropyridin-2-amine (0.076 g, 0.20 mmol) and EtOH (4.0 mL) was added 1,3-dimethyl-1H-pyrazole-4-carbaldehyde (0.027 g, 0.22 mmol) followed by a freshly prepared aqueous solution of Na2S2O4 (1M; 0.85 mL, 0.85 mmol). The reaction mixture was stirred at 80° C. for 24 h, it was then allowed to cool to room temperature, concentrated in vacuo, and the residue was absorbed on silica gel and placed on a 10 g isolute silica column. Elution with ethyl acetate/dichloromethane (v/v; 1:1), and then 4% methanol in ethyl acetate/dichloromethane (v/v; 1:1) afforded the title compound as a white solid after trituration with diethyl ether (0.023 g, 25%).

reactant | 5-chloro-4-(4-(4-chlorobenzyl)piperazin-1-yl)-3-nitropyridin-2-amine | 0.20 mmol, 0.076 g | ClC=1C(=C(C(=NC1)N)[N+](=O)[O-])N1CCN(CC1)CC1=CC=C(C=C1)Cl | C16H17Cl2N5O2
reactant | 1,3-dimethyl-1H-pyrazole-4-carbaldehyde | 0.22 mmol, 0.027 g | CN1N=C(C(=C1)C=O)C | C6H8N2O
reactant | Na2S2O4 | 0.85 mmol, 1M, 0.85 mL | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | EtOH | 4.0 mL | CCO | C2H6O
product | 6-Chloro-7-(4-(4-chlorobenzyl)piperazin-1-yl)-2-(1,3-dimethyl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridine | ClC=1C(=C2C(=NC1)NC(=N2)C=2C(=NN(C2)C)C)N2CCN(CC2)CC2=CC=C(C=C2)Cl | C22H23Cl2N7
